US06911468B2
(2) Sodium (2R)-2-{4-[5-methyl-1-(4-heptylphenylpropyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate
To a solution of (2R)-2-{4-[5-methyl-1-(4-heptylphenylpropyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoic acid (969 mg, 1.74 mmol) in ethanol (10 ml) was added 1N sodium hydroxide-ethanol solution (1.71 ml, 1.71 mmol) and the mixture was concentrated. To the residue was added hexane to give the object compound as a solid. 740 mg, (yield 80%)

reactant | (2R)-2-{4-[5-methyl-1-(4-heptylphenylpropyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoic acid | 1.74 mmol, 969 mg | CC1=CC=C(N1CCCC1=CC=C(C=C1)CCCCCCC)C1=CC=C(O[C@@H](C(=O)O)CC2=CC=CC=C2)C=C1 | C36H43NO3
reactant | sodium hydroxide ethanol | 1.71 mmol, 1N, 1.71 ml | [OH-].[Na+].C(C)O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Sodium (2R)-2-{4-[5-methyl-1-(4-heptylphenylpropyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate | yield 80% | CC1=CC=C(N1CCCC1=CC=C(C=C1)CCCCCCC)C1=CC=C(O[C@@H](C(=O)[O-])CC2=CC=CC=C2)C=C1.[Na+] | InChI=1S/C36H43NO3.Na/c1-3-4-5-6-8-12-29-17-19-30(20-18-29)15-11-26-37-28(2)16-25-34(37)32-21-23-33(24-22-32)40-35(36(38)39)27-31-13-9-7-10-14-31;/h7,9-10,13-14,16-25,35H,3-6,8,11-12,15,26-27H2,1-2H3,(H,38,39);/q;+1/p-1/t35-;/m1./s1
